US04654343
N,N-Dimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea
To a solution of 1.9 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine and 1.6 ml of diisopropylethylamine in dichloromethane was added 1.67 g of trichloromethyl chloroformate. This mixture was stirred for 1 hour, then two equivalents of dimethylamine hydrochloride were used. Diisopropylethylamine was added until solution was complete then the mixture was stirred for 1 hour, poured into saturated aqueous sodium bicarbonate and extracted with dichloromethane. The extracts were combined, dried and the solvent removed. The residue was chromatographed on a 200 g silica gel column using dichloromethane:methanol (95:5) as eluent. The active fractions were combined, evaporated and the solid recrystallized from dichloromethane-methanol-hexane, giving 1.33 g of the desired product as pale yellow crystals, mp 237°-239° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 1.9 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | diisopropylethylamine | 1.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trichloromethyl chloroformate | 1.67 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | dimethylamine hydrochloride | two equivalents | Cl.CNC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-Dimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea | 1.33 g | CN(C(=O)NC1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C)C | C15H16N6O
